

simulator lang=spectre

// include "/opt/technology/tsmc40nm_18/models/spectre/toplevel.scs" section=top_tt
ahdl_include "arizona_rram.va"

//////////////////////////
// Single rram 1T1R cell //
// v0.1 14/06/2016     //
//////////////////////////

subckt rram_cell_1t1r (plus minus sel)

	parameters rram_tstep=10p
	+ rram_T0=300
  + rram_Vread=0.1
	// LRS
	// + rram_gap_ini=0.1e-9
	// HRS
	+ rram_gap_ini=1.367e-9

	// transistor
	+ tx_p_l=40n
	+ tx_p_w=120n

	// parasitics
	+ rram_R1=10 rram_Rh=2e9 rram_Cp=1f rram_R2=10


	// Parasitic elements
	// top resistance
	ext_R1 (plus mid1) resistor r=rram_R1
	// parallel
	// ext_Rh (mid1 mid2) resistor r=rram_Rh
	ext_Cp (mid1 mid2) capacitor c=rram_Cp
	// bottom resistance
	ext_R2 (mid2 tx_drain) resistor r=rram_R2

	// memristor
	mem_0 (mid1 mid2) RRAM T0=rram_T0 gap_ini=rram_gap_ini tstep=rram_tstep Vread=rram_Vread

	// tx
	tx_0 (minus sel tx_drain 0) nch_mac l=tx_p_l w=tx_p_w m=1 nf=1

ends rram_cell_1t1r


//////////////////////////
// Single rram 1R cell //
// v0.1 14/06/2016     //
//////////////////////////

subckt rram_cell_1r (plus minus)

	parameters rram_tstep=10p
	+ rram_T0=300
  + rram_Vread=0.1
	// LRS
	// + rram_gap_ini=0.1e-9
	// HRS
	+ rram_gap_ini=1.367e-9

	// parasitics
	+ rram_R1=10 rram_Rh=2e9 rram_Cp=1f rram_R2=10

	// Parasitic elements
	// top resistance
	ext_R1 (plus mid1) resistor r=rram_R1
	// parallel
	ext_Rh (mid1 mid2) resistor r=rram_Rh
	ext_Cp (mid1 mid2) capacitor c=rram_Cp
	// bottom resistance
	ext_R2 (mid2 minus) resistor r=rram_R2

	// memristor
	mem_0 (mid1 mid2) RRAM T0=rram_T0 gap_ini=rram_gap_ini tstep=rram_tstep Vread=rram_Vread

ends rram_cell_1r


//////////////////////////
// Single rram 1R cell //
// v0.1 14/06/2016     //
//////////////////////////

subckt rram_cell_1r_no_parasitics (plus minus)

	parameters rram_tstep=10p
	+ rram_T0=300
  + rram_Vread=0.1
	// LRS
	// + rram_gap_ini=0.1e-9
	// HRS
	+ rram_gap_ini=1.367e-9

	mem_0 (plus minus) RRAM T0=rram_T0 gap_ini=rram_gap_ini tstep=rram_tstep Vread=rram_Vread
ends rram_cell_1r
